US05126419
Methylphenyl dichlorosilane (765 g; 4.0 mol.) and the same amount of diethyl ether were introduced into a four-necked flask of 2 liters volume equipped with a stirring machine, a reflux condenser, a thermometer and a dropping funnel, followed by stirring the mixture, dropwise adding 36 g (2.0 mol.) of water through the dropping funnel over five hours under nitrogen atmosphere, and then refluxing the mixture for an additional three hours. After refluxing the mixture, ether was distilled off and the starting material, methylphenyl dichlorosilane (184 g; 0.96 mol.) was recovered by distilling the reaction mixture in vacuo to obtain 220 g (0.67 mol.) of 1,3-dimethyl-1,3-diphenyl dichlorodisiloxane. Boiling Point=135°-138° C./2 mmHg.

reactant | Methylphenyl dichlorosilane | 4.0 mol, 765 g | C[Si](Cl)(Cl)C1=CC=CC=C1 | C7H8Cl2Si
reactant | water | 2.0 mol, 36 g | O | H2O
reactant | methylphenyl dichlorosilane | 0.96 mol, 184 g | C[Si](Cl)(Cl)C1=CC=CC=C1 | C7H8Cl2Si
solvent | ether | CCOCC | C4H10O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1,3-dimethyl-1,3-diphenyl dichlorodisiloxane | 0.67 mol, 220 g | C[Si](O[Si](C1=CC=CC=C1)(C)Cl)(C1=CC=CC=C1)Cl | C14H16Cl2OSi2
